US04782089
2-[(7-Benzoyl-1H-indol-3-yl)methyl]propanedioic acid
A mixture of 10.0 g (0.025 mole) of 2-[(7-benzoyl-1H-indol-3-yl)methyl]propanedioic acid diethyl ester in 150 ml of 3N sodium hydroxide was heated at reflux for 18 hr, then treated with charcoal, cooled and filtered. The dark yellow filtrate was acidified by the dropwise addition of 50 ml of concentrated hydrochloric acid. The addition of 20 ml of methylene chloride caused the formation of a ppt., which was collected and recrystallized from chloroform-methanol to give 6.0 g (70%) of off-white crystals, m.p. 188°-189° C.

reactant | 2-[(7-benzoyl-1H-indol-3-yl)methyl]propanedioic acid diethyl ester | 0.025 mole, 10.0 g | C(C)OC(C(C(=O)OCC)CC1=CNC2=C(C=CC=C12)C(C1=CC=CC=C1)=O)=O | C23H23NO5
reactant | charcoal | C | CH4
solvent | sodium hydroxide | 3N, 150 ml | [OH-].[Na+]
product | 2-[(7-Benzoyl-1H-indol-3-yl)methyl]propanedioic acid | 6.0 g, 70% | C(C1=CC=CC=C1)(=O)C=1C=CC=C2C(=CNC12)CC(C(=O)O)C(=O)O | C19H15NO5
